US05374646
2-Hydroxy-4-methylbenzenecarboxaldehyde
A solution of ethyl bromide (13.8 ml) in THF (100 ml) was added dropwise, under nitrogen to a stirred mixture of magnesium turnings (4.44 g) in dry THF (50 ml). After complete Grignard formation a solution of m-cresol (20 g) in THF (100 ml) was added dropwise. The resulting suspension was stirred for 15 mins before a solution of 1,3-dimethyl-3,4,5,6-tetrahydropyrimidin-2-one (23.7 g) in dry toluene (300 ml) was added dropwise followed by paraformaldehyde (13.85 g). The resulting suspension was heated at reflux overnight. After cooling the suspension was treated with 10% HCl (200 ml) and filtered before separating the organic phase. The organic extracts were washed with water (4×100 ml), dried and evaporated to a yellow crystalline solid (11 g). Low temperature crystallisation from ether gave the title compound as a white crystalline solid (5.31 g). A second crop (0.695 g) was also obtained.

reactant | ethyl bromide | 13.8 ml | C(C)Br | C2H5Br
reactant | magnesium | 4.44 g | [Mg] | Mg
reactant | m-cresol | 20 g | C1=C(C=CC=C1O)C | C7H8O
reactant | paraformaldehyde | 13.85 g | C=O | CH2O
reactant | HCl | 200 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,3-dimethyl-3,4,5,6-tetrahydropyrimidin-2-one | 23.7 g | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-Hydroxy-4-methylbenzenecarboxaldehyde | 5.31 g | OC1=C(C=CC(=C1)C)C=O | C8H8O2
